US08871753B2
Step B: 2-[2-(3-Aminophenyl)ethyl]-N(4)-(2-chloro-5-methylpyrimidin-4-yl)benzene-1,4-diamine trihydrochloride
Into the reaction flask was added tert-butyl [3-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-methylpyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate (0.25 g, 0.45 mmol), methanol (3 mL), and 4.0 M of hydrogen chloride in 1,4-dioxane (5 mL). The reaction mixture was stirred at rt for 16 h and concentrated to give the desired product (0.21 g, 90%). LCMS for C19H21ClN5 (M+H)+: m/z=354.1.

reactant | tert-butyl [3-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-methylpyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate | 0.45 mmol, 0.25 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC(=NC=C1C)Cl)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C29H36ClN5O4
reactant | methanol | 3 mL | CO | CH4O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(3-Aminophenyl)ethyl]-N(4)-(2-chloro-5-methylpyrimidin-4-yl)benzene-1,4-diamine trihydrochloride | 0.21 g, 90% | Cl.Cl.Cl.NC=1C=C(C=CC1)CCC1=C(C=CC(=C1)NC1=NC(=NC=C1C)Cl)N | InChI=1S/C19H20ClN5.3ClH/c1-12-11-23-19(20)25-18(12)24-16-7-8-17(22)14(10-16)6-5-13-3-2-4-15(21)9-13;;;/h2-4,7-11H,5-6,21-22H2,1H3,(H,23,24,25);3*1H
